US08236806B2
2-methyl-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)-1-m-tolylpiperazine (Compound 18)
107 mg (66%) of target compound was obtained by using a method same as in Example 1 by using 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal (110 mg, 0.398 mmol), 2-methyl-1-m-tolylpiperazine (69 mg, 0.362 mmol), DIPEA (0.063 mL, 0.362 mmol) and NaBH(OAc)3 (269 mg, 1.267 mmol).

reactant | 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal | 0.398 mmol, 110 mg | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C18H16N2O
reactant | 2-methyl-1-m-tolylpiperazine | 0.362 mmol, 69 mg | CC1N(CCNC1)C=1C=C(C=CC1)C | C12H18N2
reactant | DIPEA | 0.362 mmol, 0.063 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 1.267 mmol, 269 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 2-methyl-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)-1-m-tolylpiperazine | CC1N(CCN(C1)CCCC1=NN(C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)C | C30H34N4
